US04503230
3.2 mmoles of 2-[(4-chlorophenyl)methylsulfonyl]-4-bromopyridine was contacted with 7.0 mmoles bromoethane using essentially the conditions of Example 4 providing about 93% yield of 2-[1-(4-chlorophenyl)propylsulfonyl]-4-bromopyridine.

reactant | 2-[(4-chlorophenyl)methylsulfonyl]-4-bromopyridine | 3.2 mmoles | ClC1=CC=C(C=C1)CS(=O)(=O)C1=NC=CC(=C1)Br | C12H9BrClNO2S
reactant | bromoethane | 7.0 mmoles | BrCC | C2H5Br
product | 2-[1-(4-chlorophenyl)propylsulfonyl]-4-bromopyridine | about 93% yield | ClC1=CC=C(C=C1)C(CC)S(=O)(=O)C1=NC=CC(=C1)Br | C14H13BrClNO2S
